R1 (net84 net96) R=3.4E0
C2 (net24 net60) C=1.1E-10
T3 ( vdd! vdd! 0 0)  nfet  L=1.84E-6 W=5.07E-6
T4 ( net154 vdd! 0 0)  nfet  L=1.84E-6 W=5.07E-6
R5 ( net154 net402)  R=1.8E5
T6 (net164 net51 net51 0) pfet L=3.03E-6 W=4.04E-6
C7 (net266 net36) C=3.4E-12
R8 ( net205 net94)  R=1.0E5
T9 ( net94 net94 net278 vdd!)  pfet  L=6.42E-6 W=9.82E-6
T10 ( net278 net353 vdd! vdd!)  pfet  L=6.42E-6 W=9.82E-6
T11 ( net353 net353 vdd! vdd!)  pfet  L=6.42E-6 W=9.82E-6
T12 ( net208 net94 net353 vdd!)  pfet  L=6.42E-6 W=9.82E-6
T13 (net426 0 0 0) pfet L=5.02E-6 W=0.31E-6
T14 (vdd! net433 net433 0) pfet L=1.05E-6 W=0.34E-6
R15 ( vdd! net162)  R=2.3E3
T16 ( net162 net162 net231 vdd!)  pfet  L=3.08E-6 W=7.53E-6
T17 ( net231 net112 vdd! vdd!)  pfet  L=3.08E-6 W=7.53E-6
T18 ( net112 net112 vdd! vdd!)  pfet  L=3.08E-6 W=7.53E-6
T19 ( net21 net162 net112 vdd!)  pfet  L=3.08E-6 W=7.53E-6
T20 (net376 net338 net338 0) pfet L=8.73E-6 W=4.66E-6
T21 ( net200 net200 0 0)  nfet  L=2.86E-6 W=8.41E-6
T22 ( net29 net200 0 0)  nfet  L=2.86E-6 W=8.41E-6
R23 ( net29 net137)  R=2.4E2
T24 (net274 net292 net292 0) nfet L=5.80E-6 W=7.30E-6
R25 ( net60 net360)  R=8.8E0
T26 ( net360 net360 net292 0)  nfet  L=3.15E-6 W=3.67E-6
T27 ( net292 net343 0 0)  nfet  L=3.15E-6 W=3.67E-6
T28 ( net343 net343 0 0)  nfet  L=3.15E-6 W=3.67E-6
T29 ( net164 net360 net343 0)  nfet  L=3.15E-6 W=3.67E-6
T30 (net236 0 0 0) nfet L=6.20E-6 W=1.92E-6
T31 ( net188 net188 vdd! vdd!)  pfet  L=2.47E-6 W=3.73E-6
T32 ( net295 net188 vdd! vdd!)  pfet  L=2.47E-6 W=3.73E-6
R33 ( net295 net432)  R=8.4E2
R34 (net140 net417) R=2.3E2
T35 (net372 0 0 0) pfet L=6.07E-6 W=1.77E-6
C36 (net100 net187) C=9.2E-5
T37 (net61 net64 net64 0) nfet L=5.58E-6 W=4.23E-6
R38 (net359 net185) R=9.9E6
R39 ( 0 net431)  R=1.0E5
T40 ( net431 net268 0 0)  nfet  L=6.29E-6 W=9.80E-6
T41 ( net421 net268 0 0)  nfet  L=6.29E-6 W=9.80E-6
T42 ( vdd! net431 net268 0)  nfet  L=6.29E-6 W=9.80E-6
T43 (net202 net314 net314 0) pfet L=4.79E-6 W=2.87E-6
R44 ( net336 net423)  R=5.5E4
T45 ( net423 net423 vdd! vdd!)  pfet  L=7.79E-6 W=0.85E-6
T46 ( net104 net423 vdd! vdd!)  pfet  L=7.79E-6 W=0.85E-6
T47 (net177 net288 net288 0) nfet L=6.75E-6 W=0.97E-6
T48 (net161 net302 net302 0) pfet L=8.02E-6 W=4.11E-6
C49 (net33 net182) C=8.5E-11
T50 (net319 net130 net130 0) nfet L=4.51E-6 W=3.25E-6
R51 ( net421 net310)  R=6.4E1
T52 ( net310 net36 0 0)  nfet  L=5.50E-6 W=5.34E-6
T53 ( vdd! net36 0 0)  nfet  L=5.50E-6 W=5.34E-6
T54 ( vdd! net310 net36 0)  nfet  L=5.50E-6 W=5.34E-6
T55 (net409 net138 net138 0) nfet L=1.55E-6 W=6.31E-6
R56 ( net129 net286)  R=3.2E4
T57 ( net286 net286 net365 0)  nfet  L=7.96E-6 W=6.89E-6
T58 ( net365 net260 0 0)  nfet  L=7.96E-6 W=6.89E-6
T59 ( net260 net260 0 0)  nfet  L=7.96E-6 W=6.89E-6
T60 ( net184 net286 net260 0)  nfet  L=7.96E-6 W=6.89E-6
T61 (vdd! net25 net25 0) nfet L=6.99E-6 W=9.76E-6
R62 (net126 net158) R=3.7E6
R63 ( net364 net439)  R=0.2E4
T64 ( net439 net439 net322 vdd!)  pfet  L=3.19E-6 W=7.05E-6
T65 ( net322 net57 vdd! vdd!)  pfet  L=3.19E-6 W=7.05E-6
T66 ( net57 net57 vdd! vdd!)  pfet  L=3.19E-6 W=7.05E-6
T67 ( net383 net439 net57 vdd!)  pfet  L=3.19E-6 W=7.05E-6
R68 (vdd! net64) R=3.2E3
R69 ( net239 net222)  R=3.0E4
T70 ( net222 net222 net148 vdd!)  pfet  L=3.21E-6 W=7.48E-6
T71 ( net148 net425 vdd! vdd!)  pfet  L=3.21E-6 W=7.48E-6
T72 ( net425 net425 vdd! vdd!)  pfet  L=3.21E-6 W=7.48E-6
T73 ( net202 net222 net425 vdd!)  pfet  L=3.21E-6 W=7.48E-6
C74 (net118 net203) C=7.6E-5
T75 (net422 net152 net152 0) pfet L=6.91E-6 W=1.71E-6
R76 ( net195 net354)  R=10.0E0
T77 ( net354 net151 vdd! vdd!)  pfet  L=7.07E-6 W=9.37E-6
T78 ( net243 net151 vdd! vdd!)  pfet  L=7.07E-6 W=9.37E-6
T79 ( net7 net354 net243 vdd!)  pfet  L=7.07E-6 W=9.37E-6
T80 (net3 net33 net33 0) pfet L=6.49E-6 W=5.82E-6
T81 (net83 net40 net40 0) nfet L=2.13E-6 W=4.32E-6
R82 ( net300 net328)  R=3.6E3
T83 ( net328 net328 0 0)  nfet  L=2.31E-6 W=7.73E-6
T84 ( net114 net328 0 0)  nfet  L=2.31E-6 W=7.73E-6
T85 (0 net390 net390 0) pfet L=4.49E-6 W=2.05E-6
R86 ( net95 net375)  R=0.7E5
T87 ( net375 net375 net14 vdd!)  pfet  L=8.36E-6 W=3.98E-6
T88 ( net14 net9 vdd! vdd!)  pfet  L=8.36E-6 W=3.98E-6
T89 ( net9 net9 vdd! vdd!)  pfet  L=8.36E-6 W=3.98E-6
T90 ( net1 net375 net9 vdd!)  pfet  L=8.36E-6 W=3.98E-6
R91 (net344 net216) R=6.0E2
R92 ( net356 net103)  R=8.0E1
T93 ( net103 net391 vdd! vdd!)  pfet  L=7.48E-6 W=3.91E-6
T94 ( net26 net391 vdd! vdd!)  pfet  L=7.48E-6 W=3.91E-6
T95 ( net108 net103 net26 vdd!)  pfet  L=7.48E-6 W=3.91E-6
T96 (net109 vdd! vdd! 0) nfet L=2.77E-6 W=2.27E-6
T97 (net266 net138 net138 0) pfet L=9.28E-6 W=3.55E-6
R98 ( net335 net74)  R=2.8E3
T99 ( net74 net74 net306 vdd!)  pfet  L=7.53E-6 W=7.02E-6
T100 ( net306 net246 vdd! vdd!)  pfet  L=7.53E-6 W=7.02E-6
T101 ( net246 net246 vdd! vdd!)  pfet  L=7.53E-6 W=7.02E-6
T102 ( net359 net74 net246 vdd!)  pfet  L=7.53E-6 W=7.02E-6
T103 (net262 net329 net329 0) nfet L=3.10E-6 W=6.38E-6
C104 (net17 net372) C=0.3E-13
T105 (net405 net92 net92 0) nfet L=8.50E-6 W=8.73E-6
R106 ( net80 net130)  R=8.3E2
T107 ( net130 net130 0 0)  nfet  L=3.51E-6 W=9.17E-6
T108 ( net30 net130 0 0)  nfet  L=3.51E-6 W=9.17E-6
C109 (net91 0) C=7.6E-13
C110 (net223 net95) C=9.9E-7
R111 ( net140 net408)  R=9.7E2
T112 ( net408 net115 vdd! vdd!)  pfet  L=4.73E-6 W=3.62E-6
T113 ( 0 net115 vdd! vdd!)  pfet  L=4.73E-6 W=3.62E-6
T114 ( 0 net408 net115 vdd!)  pfet  L=4.73E-6 W=3.62E-6
T115 (0 net256 net256 0) nfet L=7.16E-6 W=6.59E-6
T116 (net53 net213 net213 0) pfet L=1.55E-6 W=1.27E-6
R117 ( 0 net97)  R=0.6E2
T118 ( net97 net240 vdd! vdd!)  pfet  L=3.48E-6 W=6.22E-6
T119 ( net172 net240 vdd! vdd!)  pfet  L=3.48E-6 W=6.22E-6
T120 ( net72 net97 net172 vdd!)  pfet  L=3.48E-6 W=6.22E-6
C121 (net304 net5) C=7.5E-9
R122 ( net62 net437)  R=1.1E5
T123 ( net437 net395 0 0)  nfet  L=8.07E-6 W=0.56E-6
T124 ( net153 net395 0 0)  nfet  L=8.07E-6 W=0.56E-6
T125 ( vdd! net437 net395 0)  nfet  L=8.07E-6 W=0.56E-6
T126 (0 net84 net84 0) nfet L=2.37E-6 W=2.40E-6
R127 ( net289 net418)  R=4.2E1
T128 ( net418 net33 0 0)  nfet  L=7.17E-6 W=9.27E-6
T129 ( net183 net33 0 0)  nfet  L=7.17E-6 W=9.27E-6
T130 ( net435 net418 net183 0)  nfet  L=7.17E-6 W=9.27E-6
T131 (net136 net128 net128 0) pfet L=8.89E-6 W=5.22E-6
T132 ( net426 net426 vdd! vdd!)  pfet  L=4.92E-6 W=7.18E-6
T133 ( net104 net426 vdd! vdd!)  pfet  L=4.92E-6 W=7.18E-6
R134 ( net104 net177)  R=1.0E1
C135 (net108 net348) C=2.8E-9
R136 ( net297 net47)  R=6.3E2
T137 ( net47 net177 vdd! vdd!)  pfet  L=8.32E-6 W=0.70E-6
T138 ( net64 net177 vdd! vdd!)  pfet  L=8.32E-6 W=0.70E-6
T139 ( 0 net47 net177 vdd!)  pfet  L=8.32E-6 W=0.70E-6
T140 (net312 net290 net290 0) pfet L=4.74E-6 W=4.91E-6
R141 ( net34 net262)  R=7.0E2
T142 ( net262 net262 net221 0)  nfet  L=9.96E-6 W=1.03E-6
T143 ( net221 net223 0 0)  nfet  L=9.96E-6 W=1.03E-6
T144 ( net223 net223 0 0)  nfet  L=9.96E-6 W=1.03E-6
T145 ( 0 net262 net223 0)  nfet  L=9.96E-6 W=1.03E-6
T146 (net279 net205 net205 0) nfet L=7.58E-6 W=7.56E-6
R147 ( net409 net84)  R=7.8E0
T148 ( net84 net84 vdd! vdd!)  pfet  L=2.87E-6 W=9.63E-6
T149 ( net133 net84 vdd! vdd!)  pfet  L=2.87E-6 W=9.63E-6
T150 (net261 net430 net430 0) nfet L=9.83E-6 W=5.63E-6
R151 (net357 net388) R=2.7E1
C152 (net275 net10) C=5.1E-7
T153 (net168 net381 net381 0) pfet L=5.14E-6 W=9.57E-6
R154 (0 net229) R=9.7E1
T155 (net258 net281 net281 0) nfet L=3.48E-6 W=9.16E-6
R156 ( net92 net143)  R=0.2E5
T157 ( net143 net143 net404 0)  nfet  L=2.89E-6 W=6.51E-6
T158 ( net404 net337 0 0)  nfet  L=2.89E-6 W=6.51E-6
T159 ( net337 net337 0 0)  nfet  L=2.89E-6 W=6.51E-6
T160 ( net239 net143 net337 0)  nfet  L=2.89E-6 W=6.51E-6
R161 (net368 net137) R=3.6E0
R162 ( net388 net100)  R=4.3E4
T163 ( net100 net72 vdd! vdd!)  pfet  L=4.18E-6 W=7.34E-6
T164 ( net49 net72 vdd! vdd!)  pfet  L=4.18E-6 W=7.34E-6
T165 ( net241 net100 net49 vdd!)  pfet  L=4.18E-6 W=7.34E-6
T166 (net319 net287 net287 0) pfet L=0.57E-6 W=4.66E-6
R167 ( net405 net409)  R=4.3E4
T168 ( net409 net409 net133 0)  nfet  L=0.42E-6 W=6.42E-6
T169 ( net133 net341 0 0)  nfet  L=0.42E-6 W=6.42E-6
T170 ( net341 net341 0 0)  nfet  L=0.42E-6 W=6.42E-6
T171 ( net358 net409 net341 0)  nfet  L=0.42E-6 W=6.42E-6
T172 (net167 net396 net396 0) nfet L=2.28E-6 W=9.93E-6
R173 ( net227 net169)  R=7.5E1
T174 ( net169 net169 net285 vdd!)  pfet  L=2.25E-6 W=0.55E-6
T175 ( net285 net235 vdd! vdd!)  pfet  L=2.25E-6 W=0.55E-6
T176 ( net235 net235 vdd! vdd!)  pfet  L=2.25E-6 W=0.55E-6
T177 ( net410 net169 net235 vdd!)  pfet  L=2.25E-6 W=0.55E-6
T178 (0 net191 net191 0) pfet L=6.19E-6 W=5.03E-6
R179 (net263 net327) R=4.2E4
R180 ( net242 net50)  R=9.2E2
T181 ( net50 net50 net393 0)  nfet  L=3.08E-6 W=4.59E-6
T182 ( net393 net24 0 0)  nfet  L=3.08E-6 W=4.59E-6
T183 ( net24 net24 0 0)  nfet  L=3.08E-6 W=4.59E-6
T184 ( net434 net50 net24 0)  nfet  L=3.08E-6 W=4.59E-6
T185 (net8 net349 net349 0) pfet L=1.58E-6 W=6.47E-6
T186 ( net155 net155 vdd! vdd!)  pfet  L=0.79E-6 W=9.34E-6
T187 ( net319 net155 vdd! vdd!)  pfet  L=0.79E-6 W=9.34E-6
R188 ( net319 net81)  R=1.3E0
R189 (net4 net82) R=9.2E2
R190 ( net18 net64)  R=6.1E3
T191 ( net64 net64 0 0)  nfet  L=8.50E-6 W=7.61E-6
T192 ( net204 net64 0 0)  nfet  L=8.50E-6 W=7.61E-6
R193 (net166 net335) R=9.3E0
R194 ( net314 net69)  R=4.8E1
T195 ( net69 net305 vdd! vdd!)  pfet  L=8.66E-6 W=2.68E-6
T196 ( net195 net305 vdd! vdd!)  pfet  L=8.66E-6 W=2.68E-6
T197 ( net171 net69 net195 vdd!)  pfet  L=8.66E-6 W=2.68E-6
R198 (net73 net280) R=1.7E5
T199 ( net366 net366 0 0)  nfet  L=5.62E-6 W=0.50E-6
T200 ( net6 net366 0 0)  nfet  L=5.62E-6 W=0.50E-6
R201 ( net6 net346)  R=5.4E5
T202 (net362 net394 net394 0) pfet L=3.47E-6 W=3.82E-6
T203 ( net113 net113 0 0)  nfet  L=6.26E-6 W=4.19E-6
T204 ( net302 net113 0 0)  nfet  L=6.26E-6 W=4.19E-6
R205 ( net302 net40)  R=2.7E3
T206 (net32 net300 net300 0) nfet L=9.68E-6 W=9.03E-6
T207 (net400 net41 net41 0) pfet L=4.64E-6 W=3.13E-6
R208 ( net53 net376)  R=9.6E4
T209 ( net376 net376 net200 0)  nfet  L=9.37E-6 W=1.24E-6
T210 ( net200 net108 0 0)  nfet  L=9.37E-6 W=1.24E-6
T211 ( net108 net108 0 0)  nfet  L=9.37E-6 W=1.24E-6
T212 ( net102 net376 net108 0)  nfet  L=9.37E-6 W=1.24E-6
T213 (net21 net407 net407 0) pfet L=8.91E-6 W=6.55E-6
R214 ( net406 net201)  R=7.2E6
T215 ( net201 net201 vdd! vdd!)  pfet  L=1.25E-6 W=7.48E-6
T216 ( net436 net201 vdd! vdd!)  pfet  L=1.25E-6 W=7.48E-6
R217 (0 net342) R=7.5E0
R218 ( net73 net155)  R=7.4E6
T219 ( net155 net155 0 0)  nfet  L=3.29E-6 W=5.91E-6
T220 ( net350 net155 0 0)  nfet  L=3.29E-6 W=5.91E-6
T221 (net93 net290 net290 0) pfet L=2.84E-6 W=2.32E-6
R222 ( net184 net203)  R=8.8E3
T223 ( net203 net203 vdd! vdd!)  pfet  L=6.78E-6 W=5.82E-6
T224 ( net204 net203 vdd! vdd!)  pfet  L=6.78E-6 W=5.82E-6
T225 (net11 net110 net110 0) pfet L=3.77E-6 W=1.62E-6
T226 (net344 0 0 0) nfet L=0.27E-6 W=4.78E-6
T227 ( net363 net363 vdd! vdd!)  pfet  L=5.80E-6 W=0.65E-6
T228 ( net175 net363 vdd! vdd!)  pfet  L=5.80E-6 W=0.65E-6
R229 ( net175 net93)  R=7.5E5
T230 (net31 net400 net400 0) pfet L=8.22E-6 W=3.94E-6
T231 (net435 0 0 0) nfet L=7.97E-6 W=2.30E-6
R232 ( net190 net414)  R=1.2E4
T233 ( net414 net414 net217 0)  nfet  L=2.57E-6 W=3.92E-6
T234 ( net217 net107 0 0)  nfet  L=2.57E-6 W=3.92E-6
T235 ( net107 net107 0 0)  nfet  L=2.57E-6 W=3.92E-6
T236 ( net38 net414 net107 0)  nfet  L=2.57E-6 W=3.92E-6
T237 (0 net419 net419 0) pfet L=3.67E-6 W=8.17E-6
R238 ( net67 net179)  R=9.5E2
T239 ( net179 net179 vdd! vdd!)  pfet  L=7.23E-6 W=4.55E-6
T240 ( net59 net179 vdd! vdd!)  pfet  L=7.23E-6 W=4.55E-6
T241 (net317 net344 net344 0) pfet L=8.16E-6 W=5.90E-6
T242 ( net236 net236 vdd! vdd!)  pfet  L=9.52E-6 W=7.06E-6
T243 ( net212 net236 vdd! vdd!)  pfet  L=9.52E-6 W=7.06E-6
R244 ( net212 net415)  R=9.4E6
T245 (net228 net252 net252 0) pfet L=0.82E-6 W=2.51E-6
C246 (net136 net401) C=3.0E-5
R247 (net253 net340) R=9.8E6
R248 ( net309 net19)  R=2.7E2
T249 ( net19 net19 vdd! vdd!)  pfet  L=0.62E-6 W=3.26E-6
T250 ( net18 net19 vdd! vdd!)  pfet  L=0.62E-6 W=3.26E-6
T251 (net406 0 0 0) nfet L=4.18E-6 W=8.18E-6
R252 ( net8 net384)  R=5.6E6
T253 ( net384 net384 vdd! vdd!)  pfet  L=1.33E-6 W=1.18E-6
T254 ( net342 net384 vdd! vdd!)  pfet  L=1.33E-6 W=1.18E-6
C255 (net232 net329) C=8.7E-11
T256 (net208 net421 net421 0) nfet L=2.92E-6 W=3.48E-6
T257 (net405 vdd! vdd! 0) nfet L=8.63E-6 W=0.19E-6
T258 (net207 vdd! vdd! 0) nfet L=4.82E-6 W=3.88E-6
R259 ( net122 net99)  R=4.7E0
T260 ( net99 net99 0 0)  nfet  L=0.74E-6 W=2.98E-6
T261 ( net16 net99 0 0)  nfet  L=0.74E-6 W=2.98E-6
C262 (net53 net30) C=8.0E-6
R263 ( net159 net403)  R=8.0E1
T264 ( net403 net307 vdd! vdd!)  pfet  L=0.29E-6 W=3.88E-6
T265 ( net239 net307 vdd! vdd!)  pfet  L=0.29E-6 W=3.88E-6
T266 ( 0 net403 net307 vdd!)  pfet  L=0.29E-6 W=3.88E-6
T267 (net247 net248 net248 0) nfet L=5.41E-6 W=7.93E-6
T268 (net416 net145 net145 0) pfet L=0.85E-6 W=7.22E-6
R269 ( net125 net264)  R=2.6E6
T270 ( net264 net304 vdd! vdd!)  pfet  L=8.64E-6 W=2.75E-6
T271 ( net87 net304 vdd! vdd!)  pfet  L=8.64E-6 W=2.75E-6
T272 ( net159 net264 net87 vdd!)  pfet  L=8.64E-6 W=2.75E-6
C273 (net119 net159) C=9.7E-14
T274 (net61 net269 net269 0) nfet L=5.86E-6 W=7.34E-6
C275 (net120 0) C=6.3E-10
T276 (net188 net71 net71 0) nfet L=9.03E-6 W=7.18E-6
T277 (net122 net21 net21 0) pfet L=3.88E-6 W=3.05E-6
T278 (net400 net166 net166 0) pfet L=9.21E-6 W=3.66E-6
R279 (net146 net131) R=2.2E4
T280 (net372 0 0 0) nfet L=7.33E-6 W=9.98E-6
T281 (net270 net238 net238 0) pfet L=5.15E-6 W=2.84E-6
T282 (net44 net382 net382 0) nfet L=9.85E-6 W=1.69E-6
R283 (net407 net10) R=8.6E3
T284 (net51 net173 net173 0) nfet L=6.55E-6 W=1.90E-6
T285 (net277 net174 net174 0) nfet L=6.29E-6 W=4.11E-6
R286 (net361 net394) R=8.2E0
R287 ( net7 net22)  R=5.8E4
T288 ( net22 net22 vdd! vdd!)  pfet  L=5.41E-6 W=3.59E-6
T289 ( net89 net22 vdd! vdd!)  pfet  L=5.41E-6 W=3.59E-6
R290 (vdd! net241) R=7.5E3
T291 (net379 net110 net110 0) nfet L=5.39E-6 W=4.76E-6
C292 (net157 net40) C=4.4E-14
R293 (net165 net23) R=6.2E6
T294 (net63 net105 net105 0) nfet L=4.95E-6 W=2.20E-6
R295 (net76 net13) R=4.5E2
T296 (vdd! net234 net234 0) nfet L=9.55E-6 W=3.15E-6
R297 (net58 net127) R=4.7E6
R298 (net436 net140) R=8.3E6
T299 (net135 net284 net284 0) nfet L=1.02E-6 W=9.26E-6
T300 (0 net273 net273 0) pfet L=9.15E-6 W=6.13E-6
C301 (net293 net323) C=9.0E-12
T302 (net92 net119 net119 0) pfet L=7.17E-6 W=9.90E-6
T303 (net301 net144 net144 0) nfet L=4.09E-6 W=7.55E-6
T304 (net233 0 0 0) nfet L=5.20E-6 W=7.69E-6
R305 (net226 0) R=6.2E4
T306 (net271 net255 net255 0) pfet L=9.73E-6 W=7.60E-6
T307 (net267 net238 net238 0) pfet L=7.23E-6 W=0.32E-6
T308 (net140 0 0 0) nfet L=1.51E-6 W=8.26E-6
C309 (net359 net126) C=6.8E-14
R310 (net1 net245) R=4.5E0
R311 (net193 net122) R=9.4E0
R312 (net249 net320) R=3.1E6
R313 (net323 net109) R=5.7E0
T314 (net220 net332 net332 0) pfet L=2.38E-6 W=0.82E-6
R315 (net370 net288) R=0.3E4
R316 (net193 net196) R=2.0E6
T317 (net422 net165 net165 0) pfet L=1.78E-6 W=0.59E-6
R318 (net359 net135) R=3.3E0
T319 (net252 net119 net119 0) nfet L=8.32E-6 W=1.20E-6
C320 (net186 net193) C=8.7E-6
C321 (net139 net276) C=1.8E-14
C322 (net122 net288) C=8.3E-13
T323 (net2 net340 net340 0) pfet L=1.52E-6 W=6.16E-6
R324 (net351 net396) R=6.5E6
T325 (net227 net372 net372 0) pfet L=2.41E-6 W=9.07E-6
T326 (vdd! 0 0 0) nfet L=1.75E-6 W=4.49E-6
R327 (net297 net347) R=6.1E0
T328 (net118 net114 net114 0) pfet L=3.65E-6 W=3.90E-6
T329 (net210 net128 net128 0) nfet L=7.00E-6 W=5.23E-6
R330 (net438 net199) R=9.0E4
C331 (net149 net332) C=0.8E-5
T332 (net142 net58 net58 0) nfet L=9.42E-6 W=6.17E-6
T333 (net211 net300 net300 0) nfet L=7.11E-6 W=7.42E-6
T334 (0 net379 net379 0) pfet L=8.01E-6 W=1.27E-6
T335 (net257 net91 net91 0) nfet L=2.95E-6 W=7.02E-6
C336 (net219 net402) C=5.8E-11
T337 (net288 net134 net134 0) pfet L=9.74E-6 W=4.61E-6
C338 (net382 net338) C=5.0E-14
T339 (net299 net146 net146 0) pfet L=6.02E-6 W=0.77E-6
C340 (net208 net349) C=1.3E-14
T341 (net122 net53 net53 0) nfet L=4.69E-6 W=9.31E-6
T342 (net54 net62 net62 0) nfet L=6.66E-6 W=2.58E-6
T343 (net35 net297 net297 0) nfet L=3.45E-6 W=0.97E-6
R344 (net165 net363) R=2.0E5
R345 (0 net39) R=9.9E2
R346 (net398 net289) R=1.9E4
R347 (net372 net121) R=9.4E2
T348 (net123 net225 net225 0) pfet L=6.26E-6 W=3.58E-6
R349 (net277 net79) R=8.4E5
C350 (net210 net392) C=1.6E-14
R351 (net336 net77) R=1.7E5
C352 (vdd! net284) C=0.7E-8
R353 (net136 net150) R=9.7E3
C354 (net125 net88) C=6.8E-8
R355 (net61 net15) R=3.4E6
T356 (net433 net294 net294 0) pfet L=4.32E-6 W=7.33E-6
C357 (net31 vdd!) C=1.2E-13
C358 (net413 net102) C=4.1E-11
C359 (net111 net352) C=0.1E-8
T360 (net438 vdd! vdd! 0) nfet L=9.47E-6 W=3.71E-6
T361 (net274 net254 net254 0) pfet L=3.72E-6 W=4.71E-6
T362 (net400 net146 net146 0) pfet L=5.67E-6 W=5.35E-6
T363 (net45 net424 net424 0) nfet L=3.78E-6 W=9.34E-6
C364 (vdd! net66) C=8.4E-6
T365 (net20 net142 net142 0) nfet L=8.80E-6 W=1.05E-6
C366 (vdd! net357) C=8.2E-8
T367 (net400 net75 net75 0) pfet L=0.55E-6 W=5.29E-6
C368 (net10 net271) C=7.5E-11
R369 (net215 net48) R=6.3E3
C370 (net1 net364) C=7.1E-13
T371 (net147 net45 net45 0) pfet L=9.83E-6 W=9.15E-6
T372 (net25 net117 net117 0) nfet L=4.62E-6 W=2.37E-6
R373 (net55 net300) R=9.0E5
C374 (net132 net373) C=4.3E-6
T375 (net191 net270 net270 0) pfet L=2.58E-6 W=2.73E-6
T376 (net48 net127 net127 0) nfet L=9.28E-6 W=6.35E-6
R377 (net338 net188) R=1.5E6
C378 (0 net413) C=9.0E-8
C379 (net314 net75) C=2.8E-6
T380 (net276 net126 net126 0) pfet L=1.90E-6 W=9.24E-6
T381 (net396 net92 net92 0) nfet L=9.39E-6 W=8.80E-6
T382 (net432 net220 net220 0) nfet L=0.52E-6 W=2.83E-6
R383 (net333 net140) R=0.6E6
T384 (net345 net37 net37 0) nfet L=2.43E-6 W=5.16E-6
R385 (net293 net31) R=7.7E6
C386 (net5 net332) C=4.2E-5
R387 (net110 net106) R=4.1E6
C388 (net346 net241) C=9.6E-7
R389 (net280 net318) R=4.5E1
T390 (net113 net21 net21 0) nfet L=4.61E-6 W=7.92E-6
T391 (net277 net426 net426 0) pfet L=6.08E-6 W=5.38E-6
T392 (net171 net105 net105 0) pfet L=3.94E-6 W=0.15E-6
C393 (net61 net410) C=0.9E-6
T394 (net233 net413 net413 0) nfet L=9.15E-6 W=5.89E-6
C395 (net406 net272) C=6.9E-9
R396 (net23 net348) R=5.1E5
T397 (net121 net377 net377 0) nfet L=8.37E-6 W=9.51E-6
T398 (net45 net300 net300 0) nfet L=5.27E-6 W=9.82E-6
C399 (net54 net352) C=5.9E-13
T400 (vdd! net54 net54 0) nfet L=7.35E-6 W=2.16E-6
R401 (net7 net410) R=3.7E2
R402 (net342 net361) R=3.1E3
T403 (net363 0 0 0) nfet L=8.63E-6 W=7.80E-6
T404 (net422 net25 net25 0) nfet L=6.33E-6 W=3.31E-6
C405 (vdd! net284) C=9.7E-5
R406 (net261 net411) R=7.5E5
T407 (net315 net277 net277 0) pfet L=1.77E-6 W=6.68E-6
T408 (net25 net184 net184 0) nfet L=7.55E-6 W=0.39E-6
R409 (net204 net93) R=3.2E4
C410 (net210 net256) C=2.5E-8
C411 (net27 net340) C=3.0E-5
T412 (net373 net357 net357 0) pfet L=7.59E-6 W=6.24E-6
T413 (net3 net275 net275 0) pfet L=3.69E-6 W=2.54E-6
C414 (net388 vdd!) C=0.1E-14
R415 (net252 net66) R=2.8E1
R416 (net257 net207) R=3.4E2
C417 (net190 net189) C=0.9E-7
C418 (net205 net303) C=3.1E-14
T419 (net436 net190 net190 0) nfet L=4.60E-6 W=0.48E-6
T420 (net210 net32 net32 0) nfet L=0.12E-6 W=0.16E-6
T421 (net411 net234 net234 0) nfet L=6.05E-6 W=9.00E-6
R422 (net28 net320) R=3.3E5
R423 (net253 net364) R=3.9E4
T424 (net213 net411 net411 0) pfet L=3.27E-6 W=5.63E-6
R425 (net58 net128) R=1.8E3
C426 (net191 net96) C=2.5E-7
T427 (net16 net410 net410 0) nfet L=3.67E-6 W=7.11E-6
T428 (net350 0 0 0) nfet L=3.60E-6 W=4.57E-6
C429 (net385 net228) C=6.8E-7
R430 (net178 net248) R=3.1E5
T431 (net392 net146 net146 0) nfet L=6.33E-6 W=1.17E-6
R432 (net211 net153) R=8.1E4
T433 (net345 vdd! vdd! 0) nfet L=2.34E-6 W=8.85E-6
R434 (net71 net426) R=3.1E5
T435 (net293 net330 net330 0) nfet L=7.45E-6 W=2.86E-6
R436 (net252 net281) R=0.4E3
R437 (net109 0) R=9.8E2
C438 (net106 net199) C=7.4E-8
T439 (net406 net187 net187 0) nfet L=2.58E-6 W=0.52E-6
T440 (net93 vdd! vdd! 0) nfet L=7.64E-6 W=5.68E-6
R441 (net82 net255) R=9.8E5
C442 (net283 net241) C=5.0E-14
T443 (net1 vdd! vdd! 0) nfet L=5.27E-6 W=9.81E-6
T444 (net326 net280 net280 0) nfet L=5.68E-6 W=1.07E-6
T445 (net199 net17 net17 0) nfet L=7.30E-6 W=1.59E-6
T446 (net389 net329 net329 0) nfet L=1.86E-6 W=7.68E-6
C447 (net125 net95) C=7.4E-11
C448 (net128 net142) C=7.5E-8
R449 (net370 net225) R=8.7E2
C450 (net23 net2) C=7.5E-6
T451 (net91 net284 net284 0) pfet L=5.86E-6 W=5.24E-6
T452 (net58 net355 net355 0) pfet L=7.07E-6 W=1.25E-6
T453 (net291 net80 net80 0) pfet L=2.97E-6 W=9.58E-6
T454 (net71 net184 net184 0) nfet L=2.20E-6 W=9.72E-6
R455 (net357 net161) R=0.4E3
T456 (net326 net136 net136 0) pfet L=1.60E-6 W=2.43E-6
T457 (net248 net364 net364 0) pfet L=6.05E-6 W=6.17E-6
T458 (net399 net364 net364 0) pfet L=3.74E-6 W=9.69E-6
R459 (net91 net105) R=3.5E6
T460 (0 net426 net426 0) nfet L=5.64E-6 W=2.83E-6
R461 (net411 net109) R=6.9E3
T462 (net181 net293 net293 0) pfet L=1.56E-6 W=2.37E-6
R463 (net44 net142) R=10.0E4
C464 (net340 net313) C=6.4E-10
T465 (net168 net31 net31 0) pfet L=0.78E-6 W=8.51E-6
T466 (net275 net80 net80 0) nfet L=1.09E-6 W=6.01E-6
C467 (vdd! net196) C=8.6E-9
T468 (net332 net428 net428 0) pfet L=0.87E-6 W=8.57E-6
T469 (net215 vdd! vdd! 0) nfet L=5.77E-6 W=1.99E-6
T470 (net275 net299 net299 0) nfet L=7.91E-6 W=7.38E-6
C471 (net394 net265) C=1.5E-8
T472 (net213 net150 net150 0) pfet L=2.53E-6 W=3.52E-6
T473 (net160 net55 net55 0) pfet L=4.36E-6 W=6.99E-6
R474 (net12 net377) R=2.4E0
T475 (net110 net318 net318 0) pfet L=8.14E-6 W=7.82E-6
T476 (vdd! net249 net249 0) nfet L=9.93E-6 W=1.18E-6
T477 (net153 net379 net379 0) nfet L=4.74E-6 W=0.60E-6
T478 (net329 net71 net71 0) nfet L=8.50E-6 W=7.26E-6
T479 (net315 0 0 0) nfet L=6.97E-6 W=0.81E-6
T480 (net13 net244 net244 0) pfet L=9.08E-6 W=2.05E-6
R481 (net371 net202) R=1.2E5
T482 (net119 net218 net218 0) nfet L=1.74E-6 W=5.88E-6
T483 (vdd! net254 net254 0) pfet L=8.36E-6 W=2.97E-6
C484 (net338 net134) C=4.2E-7
T485 (net324 net388 net388 0) nfet L=7.60E-6 W=3.27E-6
R486 (net63 net387) R=2.4E0
C487 (net397 net396) C=6.4E-10
T488 (net249 vdd! vdd! 0) nfet L=8.21E-6 W=2.28E-6
C489 (net279 net334) C=9.8E-8
T490 (net288 net117 net117 0) nfet L=8.98E-6 W=5.81E-6
T491 (net134 net214 net214 0) pfet L=1.56E-6 W=8.52E-6
R492 (net392 net93) R=5.8E2
T493 (net44 net311 net311 0) nfet L=8.39E-6 W=3.23E-6
C494 (net119 net380) C=2.8E-5
T495 (net250 net432 net432 0) pfet L=6.50E-6 W=6.91E-6
T496 (net372 net253 net253 0) pfet L=9.93E-6 W=7.64E-6
R497 (net125 net1) R=5.5E5

